*
R1 N017 N001 1
R2 N018 N017 2
R3 N019 N018 3
R4 N020 N019 4
R5 N021 N020 5
R6 N015 N016 1
R7 N014 N015 2
R8 N013 N014 3
R9 N012 N013 4
R10 N001 N012 5
V1 0 N001 SINE(0 10 1k)
R11 0 N021 5
R12 N016 0 1
R13 N007 N001 1
R14 N008 N007 2
R15 N009 N008 3
R16 N010 N009 4
R17 N011 N010 5
R18 N005 N006 1
R19 N004 N005 2
R20 N003 N004 3
R21 N002 N003 4
R22 N001 N002 5
R23 0 N011 5
R24 N006 0 1
.tran 0 1m 0 1u
.backanno
.end
